US07960552B2
To a solution of 3,5-dichloro-4-pyridinecarbaldehyde oxime (3.15 g, 16.5 mmol) in N,N-dimethylformamide (13 mL) was added N-chlorosuccinimide (2.20 g, 16.5 mmol). The mixture was heated to 65° C. and all solids dissolved. The solution was stirred at 65° C. for approximately 1.5 hours, poured into water and extracted with ether. The ether layer containing the crude imidoyl chloride was washed with brine, dried over magnesium sulfate and concentrated. To a separate solution of ethyl 3-cyclobutyl-3-oxopropanoate (3.37 g, 19.8 mmol) in tetrahydrofuran (4 mL) at 0° C. was added sodium ethoxide (25 wt % in ethanol, 6.21 mL, 19.8 mmol) and the mixture was stirred for approximately 7 minutes. Then the above imidoyl chloride was added in tetrahydrofuran (13 mL) at a slow rate. A solid precipitated and the mixture was allowed to warm to ambient temperature and stir overnight. The mixture was concentrated and taken up with ethyl acetate and washed with water. The aqueous layer was back-extracted with ethyl acetate and the combined organic layers were washed with brine, dried over magnesium sulfate and purified by chromatography (silica gel, 0-10% ethyl acetate in hexanes gradient elution) to afford ethyl 5-cyclobutyl-3-(3,5-dichloro-4-pyridinyl)-4-isoxazolecarboxylate (2.98 g, 53%). 1H-NMR (400 MHz, DMSO-d6) δ 8.64 (s, 2H), 4.35-4.20 (m, 1H), 4.05 (q, J=7 Hz, 2H), 2.45-2.30 (m, 4H), 2.14-2.04 (m, 1H), 2.00-1.89 (m, 1H), 0.96 (t, J=7 Hz, 3H). LRMS (APCI) m/z 341 (M+H)+.

reactant | 3,5-dichloro-4-pyridinecarbaldehyde oxime | 16.5 mmol, 3.15 g | ClC=1C=NC=C(C1C=NO)Cl | C6H4Cl2N2O
reactant | N-chlorosuccinimide | 16.5 mmol, 2.20 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | ethyl 3-cyclobutyl-3-oxopropanoate | 19.8 mmol, 3.37 g | C1(CCC1)C(CC(=O)OCC)=O | C9H14O3
reactant | sodium ethoxide | 19.8 mmol, 6.21 mL | [O-]CC.[Na+]
solvent | N,N-dimethylformamide | 13 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 13 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 5-cyclobutyl-3-(3,5-dichloro-4-pyridinyl)-4-isoxazolecarboxylate | 2.98 g, 53% | C1(CCC1)C1=C(C(=NO1)C1=C(C=NC=C1Cl)Cl)C(=O)OCC | C15H14Cl2N2O3
